US08232294B2
Step 3) (S)—((R)-1-(4-(4-(6,7-dimethoxyquinolin-4-yloxy)-3-fluorophenylcarbamoyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydropyrazol-1-yl)propan-2-yl)2-aminopropanoate hydrochloride
The title compound was prepared according to the procedure described in Example 1 Step 3 by using (S)—((R)-1-(4-(4-(6,7-dimethoxyquinolin-4-yloxy)-3-fluorophenyl-carbamoyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydropyrazol-1-yl)propan-2-yl)2-aminopropanoate (165.3 mg, 0.257 mmol) and a saturated HCl solution in EtOAc (5 mL). The title compound was obtained as a pale yellow solid (160 mg, 87%).

reactant | (S)—((R)-1-(4-(4-(6,7-dimethoxyquinolin-4-yloxy)-3-fluorophenyl-carbamoyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydropyrazol-1-yl)propan-2-yl)2-aminopropanoate | 0.257 mmol, 165.3 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)NC(=O)C=1C(N(N(C1C)C[C@@H](C)OC([C@H](C)N)=O)C1=CC=CC=C1)=O)F | C34H34FN5O7
reactant | HCl | Cl | ClH
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
product | (S)—((R)-1-(4-(4-(6,7-dimethoxyquinolin-4-yloxy)-3-fluorophenylcarbamoyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydropyrazol-1-yl)propan-2-yl)2-aminopropanoate hydrochloride | Cl.COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)NC(=O)C=1C(N(N(C1C)C[C@@H](C)OC([C@H](C)N)=O)C1=CC=CC=C1)=O)F | InChI=1S/C34H34FN5O7.ClH/c1-19(46-34(43)20(2)36)18-39-21(3)31(33(42)40(39)23-9-7-6-8-10-23)32(41)38-22-11-12-28(25(35)15-22)47-27-13-14-37-26-17-30(45-5)29(44-4)16-24(26)27;/h6-17,19-20H,18,36H2,1-5H3,(H,38,41);1H/t19-,20+;/m1./s1
